US06608078B2
Sodium borohydride (0.5 g, 15.6 mmole) was added to the stirred solution of 1-benzyl-3-isopropylpiperid-4-one (3.3 g, 14.2 mmole) in methanol (25 ml) at 0-5° C. over a period of 5 min, and stirring was continued for 1 hr at ambient temperature. The reaction mixture was concentrated to dryness, triturated with water (20 ml) and extracted with ethyl acetate. The ethyl acetate extract was dried (Na2SO4) and concentrated to dryness to furnish 1-benzyl-4-hydroxy-3-isopropylpiperidine as oil. Yield 2.9 g (85%), C15H23NO, m/z 234 (M+1).

reactant | Sodium borohydride | 15.6 mmole, 0.5 g | [BH4-].[Na+]
reactant | 1-benzyl-3-isopropylpiperid-4-one | 14.2 mmole, 3.3 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(C)C | C15H21NO
solvent | methanol | 25 ml | CO | CH4O
product | 1-benzyl-4-hydroxy-3-isopropylpiperidine | C(C1=CC=CC=C1)N1CC(C(CC1)O)C(C)C | C15H23NO
